US06716851B2
4-(2,5-Diethoxyanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
A mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol), 2,5-diethoxyaniline (52 mg, 0.290 mmol) and 2N HCl (150 μl) in water:ethanol (3:1, 10 ml) was refluxed for 24 h. The mixture was cooled to room temperature and basified with aqueous 2N NaOH to pH 10-12. The resulting precipitate was filtered and isolated as a yellow solid (14 mg, 18%). 1H NMR (CDCl3): 9.67 (s, 1H), 8.74-8.71 (m, 2H), 7.93 (s, 1H), 7.64 (s, 1H), 7.43-7.39 (m, 1H), 6.91 (s, 1H), 6.86 (d, J=9.3 Hz, 1H), 6.65 (dd, J=2.7, 8.7 Hz, 1H), 4.13-4.04 (m, 4H), 1.47-1.42 (m, 6H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 2,5-diethoxyaniline | 0.290 mmol, 52 mg | C(C)OC1=C(N)C=C(C=C1)OCC | C10H15NO2
reactant | HCl | 2N, 150 μl | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
solvent | water ethanol | 10 ml | O.C(C)O
product | 4-(2,5-Diethoxyanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 14 mg, 18% | C(C)OC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=C(C=C1)OCC | C20H19F3N4O2
